US06437184B1
A mixture of 4.12 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(5-(2-propenyloxy)pentyloxy)benzene, 0.36 g of mercury (II) sulfate, 5 ml of 1% aqueous sulfuric acid solution, and 50 ml of tetrahydrofuran was stirred at 60° C. for 1 hour. The reaction mixture was filtered through Celite, and the filtrate was poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with diluted hydrochloric acid and water in this order, dried over magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 4.05 g (yield, 94%) of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone, nD25.5 1.5350.

reactant | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(5-(2-propenyloxy)pentyloxy)benzene | 4.12 g | ClC=1C=C(C=C(C1OCCCCCOCC=C)Cl)OCC=C(Cl)Cl | C17H20Cl4O3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
catalyst | mercury (II) sulfate | 0.36 g | S(=O)(=O)([O-])[O-].[Hg+2]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone | 4.05 g, 94% | ClC1=C(OCCCCCOCC(C)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C17H20Cl4O4
